US04181791
438 gms (2.5 moles) of p-xylylene dichloride were added slowly to a refluxing solution of 539 gms (5.5 moles) of anhydrous potassium acetate in 2000 mls of glacial acetic acid. The resultant mixture was refluxed for a further 2 hours and then cooled. The solution was extracted several times with hot benzene, and the benzene extracts were washed with water until neutral. After distilling off the benzene, the residue was recrystallised from petroleum ether to yield 350 gms of p-xylylene diacetate.

reactant | p-xylylene dichloride | 2.5 moles, 438 gms | C1(=CC=C(C=C1)CCl)CCl | C8H8Cl2
reactant | potassium acetate | 5.5 moles, 539 gms | C(C)(=O)[O-].[K+]
solvent | acetic acid | 2000 mls | C(C)(=O)O | C2H4O2
product | p-xylylene diacetate | 350 gms | C(C)(=O)OCC1=CC=C(C=C1)COC(C)=O | C12H14O4
